US04059621
1-(4-nitro benzamido)-3-(N-benzyl isopropylamino)-2-propanol hydrochloride, M. Pt. 163°-164° C, starting from 7.2 g (0.039 mole) of 4-nitro benzoyl chloride and 8.65 g (0.039 mole) of 1-amino-3-(N-benzyl isopropylamino)-2-propanol (yield 71%).

reactant | 1-(4-nitro benzamido)-3-(N-benzyl isopropylamino)-2-propanol hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C(=O)NCC(CN(CC2=CC=CC=C2)C(C)C)O)C=C1
reactant | 4-nitro benzoyl chloride | 0.039 mole, 7.2 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | 1-amino-3-(N-benzyl isopropylamino)-2-propanol | 0.039 mole, 8.65 g, yield 71% | NCC(CN(CC1=CC=CC=C1)C(C)C)O | C13H22N2O
